Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
sulfa
 
Attending: ___.
 
Chief Complaint:
s/p mechanical fall -hs/-loc; L 2,4,5th rib fx, L small ptx
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ h/o osteoporosis, falls, s/p mechanical fall -hs/-loc; L 
___ rfx, L sm ptx
 
Past Medical History:
Past Medical History:  
- GERD
- hx of falls
- osteoporosis
- HLD
- depression

Past Surgical History:  
- bilateral wrist surgery s/p fracture
- hysterectomy
- BSO
- appendectomy
- cateract surgery
- Left rotator cuff surgery
- 2 back surgeries for scoliosis
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Discharge Physical Exam:
Vitals - T 99.5 / BP 120/62 / HR 62 / RR 20 / O2sat 95%RA
General - comfortable, NAD
HEENT - normocephalic, PERRLA, EOMI, moist mucous membranes
Neck - full ROM
Cardiac - RRR, no M/R/G
Chest - CTAB, mild TTP right chest wall
Abdomen - soft, NT, ND, normoactive bowel sounds
Extremities - warm and well-perfused, no edema, full ROM
Neuro - A&OX3, sensorimotor function intact in all 4 extremities
 
Pertinent Results:
Lab Results:
___ 07:15AM BLOOD WBC-6.1 RBC-4.26 Hgb-13.4 Hct-40.0 MCV-94 
MCH-31.5 MCHC-33.5 RDW-13.2 RDWSD-44.8 Plt ___
___ 07:15AM BLOOD Glucose-120* UreaN-20 Creat-1.0 Na-146* 
K-4.2 Cl-113* HCO3-22 AnGap-15

Imaging Results:
CHEST (PA and Lateral) ___
No clinically significant pneumothorax
 
Brief Hospital Course:
___ h/o osteoporosis and several prior falls, admitted to ___ 
for observation after mechanical fall without headstrike or 
loss-of-consciousness. Only injuries noted are left-sided 2, 4, 
5th rib fractures, as well as a very small left-sided 
pneumothorax. Patient's pain was well-controlled with tylenol 
and tramadol, patient worked on incentive spirometry and 
ambulated. She was breathing comfortably on room air. Her repeat 
CXR demonstrated decrease in size of pneumothorax. She worked 
with Physical Therapy and Occupational therapy which cleared her 
for home with outpatient ___. She tolerated a regular diet. Her 
tertiary trauma exam identified no new injuries. She is ready 
for discharge home with pain medications and follow-up in 
clinic. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Sertraline 100 mg PO DAILY 
3. Propranolol 20 mg PO BID 
4. Multivitamins 1 TAB PO DAILY 
5. Simvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
3.  Lidocaine 5% Patch 1 PTCH TD QPM 
RX *lidocaine-transparent dressing 4 % 1 patch daily Disp #*1 
Kit Refills:*0 
4.  TraMADol ___ mg PO Q4H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every ___ hours Disp 
#*30 Tablet Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  Propranolol 20 mg PO BID  
8.  Sertraline 100 mg PO DAILY  
9.  Simvastatin 10 mg PO QPM  
10.Outpatient Physical Therapy
Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left 2,4,5th rib fractures
Small left-sided pneumothorax
Osteoporosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you here at ___. You were 
admitted after a mechanical fall which resulted in left-sided 
rib fractures and small left pneumothorax. You were admitted to 
the Acute Care Surgery service for observation. Your pain was 
controlled and you were breathing well. We obtained a repeat 
chest x-ray that demonstrated your lung had improved. You are 
now ready for discharge home. Please follow the below 
instructions for a safe and speedy recovery.

Rib Fractures:

* Your injury caused left 2,4,5th rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).
 
Followup Instructions:
___